US05834493
i) 5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole hydrochloride
A solution of compound of Description 1 [5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole] (3 g) in diethyl ether was saturated with gaseous hydrogen chloride. A solid was precipitated. The title compound was collected by filtration washed with diethyl ether and dried under vacuum. The compound was used as such without further purification.

reactant | 5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C15H14N2O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole hydrochloride | Cl.COC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | InChI=1S/C15H14N2O.ClH/c1-18-13-4-5-15-14(8-13)12(10-17-15)7-11-3-2-6-16-9-11;/h2-6,8-10,17H,7H2,1H3;1H
